US08835449B2
Sodium 1-(2,5-dimethoxyphenyl)-3-ethoxy-3-oxoprop-1-en-1-olate
A 20-L reaction vessel was charged with magnesium ethoxide (3.61 moles; 413.52 g) and THF (6.6 L), and the resulting mixture was stirred as ethyl hydrogen malonate (7.23 moles; 888.89 mL; 994.67 g; diluted with 20 mL of THF) was added and the mixture was heated at 45° C. for 4 hours. Meanwhile, a 20 L reactor was charged with 2,5-dimethoxybenzoic acid (3.29 moles; 600.00 g) and THF (3.6 L). To this mixture stirring at room temperature was added 1,1′-carbonyldiimidazole (3.61 moles; 585.98 g) in portions to avoid excess foaming. After stirring for 3 hours at room temperature the second solution was added gradually to the first solution. After addition the reaction mixture was heated to 45° C. After 20 hours, the reaction mixture was concentrated under reduced pressure before adding ethyl acetate (6 L) followed by 2 N HCl (3 L). After mixing, the layers were separated and the organic phase was washed sequentially with 2 N HCl (3 L), saturated sodium bicarbonate (3 L), and water (3 L). The organic phase was concentrated under reduced pressure, the residue taken up in ethyl acetate (6 L) and concentrated again to afford an oil, which was transferred to a 20 L reaction vessel with 5 L of ethyl acetate and treated with sodium methoxide (3.45 moles; 793.00 mL of a 4.35 M solution in methanol). After stirring at room temperature for 3 hours, an additional 6 L of ethyl acetate was added and the solid collected by vacuum filtration and dried overnight in a vacuum oven at 40° C. to give 661 grams of the title product.

reactant | magnesium ethoxide | 3.61 moles, 413.52 g | [O-]CC.[Mg+2].[O-]CC
reactant | ethyl hydrogen malonate | 7.23 moles, 888.89 mL, 994.67 g | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | 2,5-dimethoxybenzoic acid | 3.29 moles, 600.00 g | COC1=C(C(=O)O)C=C(C=C1)OC | C9H10O4
reactant | 1,1′-carbonyldiimidazole | 3.61 moles, 585.98 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | ethyl acetate | 6 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 L | C(C)(=O)OCC | C4H8O2
solvent | THF | 3.6 L | C1CCOC1 | C4H8O
solvent | THF | 6.6 L | C1CCOC1 | C4H8O
product | Sodium 1-(2,5-dimethoxyphenyl)-3-ethoxy-3-oxoprop-1-en-1-olate | 661 grams | COC1=C(C=C(C=C1)OC)C(=CC(=O)OCC)[O-].[Na+] | InChI=1S/C13H16O5.Na/c1-4-18-13(15)8-11(14)10-7-9(16-2)5-6-12(10)17-3;/h5-8,14H,4H2,1-3H3;/q;+1/p-1
